US05981525
(2Z,4E)-N-Benzyl-5-(2-indolyl)-2-methoxy-2,4-pentadienamide.
This compound was prepared following the same procedure of Example 9 and starting from (2Z,4E)-5-(2-indolyl)-2-methoxy-2,4 pentadienoate (0.1 g, 0.39 mmol), benzylamine (0.043 ml, 0.39 mmol) and a solution of 2M trimethylaluminium in toluene (0.4 ml, 0.8 mmol). After crystallisation from isopropanol, 42 mg (32.4%) of the title compound were obtained, m.p.=204-205° C. 1H-NMR (acetone-d6): 10.55 (br s, 1H); 7.94 (br t, 1H); 7.51 (d, 1H); 7.38-7.21 (m, 6H); 7.18 (dd, 1H); 7.11 (ddd, 1H); 6.99 (ddd, 1H); 6.91 (d, 1H); 6.85 (d, 1H); 6.61 (s, 1H); 4.50 (d, 2H); 3.79 (s, 3H).

reactant | (2Z,4E)-5-(2-indolyl)-2-methoxy-2,4 pentadienoate | 0.39 mmol, 0.1 g | N1C(=CC2=CC=CC=C12)/C=C/C=C(/C(=O)[O-])\OC
reactant | benzylamine | 0.39 mmol, 0.043 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | trimethylaluminium | 2M | C[Al](C)C
reactant | toluene | 0.8 mmol, 0.4 ml | C1(=CC=CC=C1)C | C7H8
product | (2Z,4E)-N-Benzyl-5-(2-indolyl)-2-methoxy-2,4-pentadienamide | 42 mg, 32.4% | C(C1=CC=CC=C1)NC(/C(=C/C=C/C=1NC2=CC=CC=C2C1)/OC)=O | C21H20N2O2
